US07834051B2
4-[(2S,3S)-3-(tert-butyldimethylsilyloxy)-2-methyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
Using (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpyrrolidin-2-one (5.00 g), 4-iodo-2-(trifluoromethyl)benzonitrile (6.80 g), cesium carbonate (10.65 g), tris(dibenzylideneacetone)dipalladium(0) (1.00 g) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (2.52 g), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 5.617 g, yield: 64.7%).

reactant | (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpyrrolidin-2-one | 5.00 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(N[C@H]1C)=O | C11H23NO2Si
reactant | 4-iodo-2-(trifluoromethyl)benzonitrile | 6.80 g | IC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
reactant | cesium carbonate | 10.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 2.52 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.00 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(2S,3S)-3-(tert-butyldimethylsilyloxy)-2-methyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](N(C(C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)C | C19H25F3N2O2Si
